Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
hypertension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN, DMII, CKD, CAD w/ remote hx of MI (unclear when 
this was) who presents with ___ days of uncontrolled and slowly 
increasing BPs at home (per patient the SBP was 190s this 
morning), despite no changes in medications. On morning of ___ 
she was at a scheduled appointment to receive erythropoietin 
injection, and was noted to have SBPs over 200, with associated 
dizziness and chest pain. She denied dyspnea, fever, or cough. 
She was referred to the ___ ED. 

ED COURSE
In the ED intial vitals were:  97.5 66 227/63 20 95% on RA
EKG:  sinus rhythm, RAD, RBBB, inferolateral STD, prolonged QTC 
of 518
Labs/studies notable for: 
- troponin 0.02
- Cr 3.1, K 4.1, Na 135, glucose 400
- Mg 1.4
- LFT wnl except AP 130 
- WBC 6.7, H/H 9.7/30.3, platelets 158
Patient was given:  SL NTG 0.4 mg x 1, started NTG gtt, Mag 2g, 
insulin 8 units, ASA 324

Vitals on transfer:  98.2 59 171/55 14 97% RA 

On arrival to the floor the patient is feeling much better, and 
now feels back to normal. She was interviewed with the 
assistance of a ___ interpreter via telephone and then also 
with the assistance of the patient's grad-daughter via video 
chat.

The patient takes her BP at home daily. For the past week she 
has noticed increasing systolic numbers, with this morning being 
the highest in the 190s. Today she also felt dizzy and unwell. 
Some chest pressure vs palpitations also. No dyspnea, headaches, 
vision changes, PND, orthopnea, leg swelling.

She lives with her son and grand-daughter. She is independent in 
ADLs, uses a cane to ambulate. She takes her own medications, 
but cannot name them for me (she tells me "blood pressure 
medicine, stomach medicine, insulin"). She tells me she does not 
have difficulty remembering to take her medications, and has not 
made any recent changes.

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  None
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  
Diabetes mellitus type 2. 
Hypertension. 
CKD (recent 2.3-3.5 earlier in year)
hypercholesterolemia 
iron deficiency anemia 
moderate mitral regurgitation 
peripheral neuropathy 
CAD with remote history of MI

PAST SURGICAL/INVASIVE HISTORY
___ EGD (upper endoscopy)
___ Colonoscopy
___ PRBC transfusion x 1 unit
___ PRBC transfusion x 2 units
EGD ___
COLONOSCOPY ___
 
Social History:
___
Family History:
No kidney disease or heart disease

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 97.9  189/59  65  18  94% on room air 
GENERAL: Alert. Oriented x3. No distress.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 6 cm.  
CARDIAC: Regular rhythm. Systolic murmur best at the apex.
LUNGS: Resp are unlabored, no accessory muscle use. Few 
bibasilar crackles. No wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

DISCHARGE PHYSICAL EXAMINATION
VS: 97.4 afeb 118-160/40-62 57-61 18 98/RA 
Wt: 56.3kg 
GENERAL: Alert. Oriented x3. No distress.
HEENT: NCAT. PERRL, EOMI.   
NECK: Supple with JVP of 8-9 cm.  
CARDIAC: Regular rhythm. ___ Systolic murmur best at the apex.
LUNGS: Resp are unlabored, no accessory muscle use. Few 
bibasilar crackles. No wheezes or rhonchi.  
ABDOMEN: Soft, non-distended. Mildly tender in the LLQ
EXTREMITIES: No edema.  
 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 10:20AM BLOOD WBC-6.7 RBC-3.27* Hgb-9.7* Hct-30.3* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-12.5 RDWSD-42.6 Plt ___
___ 10:20AM BLOOD Neuts-77.6* Lymphs-13.7* Monos-5.5 
Eos-2.3 Baso-0.3 Im ___ AbsNeut-5.37 AbsLymp-0.95* 
AbsMono-0.38 AbsEos-0.16 AbsBaso-0.02
___ 12:45PM BLOOD Glucose-400* UreaN-58* Creat-3.1* Na-135 
K-4.3 Cl-98 HCO3-24 AnGap-17
___ 12:45PM BLOOD ALT-8 AST-13 CK(CPK)-55 AlkPhos-130* 
TotBili-0.3
___ 12:45PM BLOOD Albumin-3.7 Calcium-8.6 Phos-3.0 Mg-1.4*

==============
PERTINENT LABS
==============
___ 12:45PM BLOOD CK-MB-2
___ 12:45PM BLOOD cTropnT-0.02*
___ 07:20PM BLOOD CK-MB-2 cTropnT-0.02*
___ 06:40AM BLOOD CK-MB-2 cTropnT-0.03*

=======
IMAGING
=======
___ CXR 
Moderate cardiomegaly with minimal pulmonary vascular 
congestion.

==============
DISCHARGE LABS
==============
___ 06:10AM BLOOD WBC-8.9# RBC-3.11* Hgb-9.3* Hct-29.4* 
MCV-95 MCH-29.9 MCHC-31.6* RDW-12.5 RDWSD-42.8 Plt ___
___ 06:10AM BLOOD Glucose-154* UreaN-60* Creat-3.6* Na-138 
K-4.1 Cl-99 HCO3-26 AnGap-17
___ 06:10AM BLOOD CK-MB-2 cTropnT-0.02*
___ 06:10AM BLOOD Calcium-8.3* Phos-4.4 Mg-1.___ y/o ___ speaking only female with HTN, DMII, CKD, CAD 
(w/ remote hx of MI) who presented with hypertensive emergency. 

# CORONARIES:  no prior cath
# PUMP:  EF > 65% in ___, 2+ MR 
# RHYTHM: sinus 

# HTN EMERGENCY: Patient presented with SBPs 220s to ED, with 
associated dizziness and chest pain and troponin elevation of 
0.02. EKG with ST-depressions in II, V3-V6, similar to prior, 
troponins peaked at 0.03.  The trigger for her uncontrolled 
blood pressure is unclear at this time. She manages her own 
medication, raising some concern for medication compliance, 
although she does fill her medications regularly. She has also 
has advanced CKD, which is likely playing a role. She was 
initially on a nitro gtt, able to be weaned back to home regimen 
of metoprolol XL 25, doxazosin 1 mg BID, hydralazine 100 mg TID, 
imdur 60 qD. BPs labile with BPs to 180s-190s on this regimen, 
so metoprolol was discontinued and carvedilol 12.5 BID 
initiated, later uptitrated to 25 mg BID. She was discharged on 
carvedilol 25mg BID.  

# CHRONIC DIASTOLIC HEART FAILURE: EF > 55% in ___ with 2+ MR. 
___ euvolemic on exam. CXR without acute process. Continued 
on home furosemide 40 daily. Discharge Dry Weight 56kg. 

# CAD: hx of MI per OMR, although patient/family denies. 
Continued on home pravastatin, metoprolol XL 25, and ASA 81 
daily .

# CKD: baseline Cr 2.7 - 3.5, at baseline on admission. Patient 
is followed closely by her outpatient nephrologist. Dialysis was 
discussed in the recent past, which the patient was not 
interested in. Cr remained relatively stable throughout 
admission, discharged with cr 3.6.  

# DM II: insulin dependent. Blood sugar on admission of 400, no 
anion gap, normalized to 150s upon arrival to the floor. 
Continued on home glargine 10 U qPM, held home glipizide, 
Januvia. 

# NORMOCYTIC ANEMIA: iron deficiency anemia, EPO dependent. H/H 
stable from baseline Hgb ~ 9. Last colonoscopy in ___ normal 
except diverticulosis, internal hemorrhoids. Continued on home 
ferrous sulfate 

TRANSITIONAL ISSUES:
- Please continue to review medications and encourage adherence
- Metoprolol changed to carvedilol 25mg BID for additional blood 
pressure control
- Will need to have outpatient Cardiology follow up with repeat 
___ as outpatient given moderate 2+ MR on ___ from ___
- QTc ranged 485-518 during admission. Would recommend avoiding 
all QT prolonging medications

# CONTACT: ___ (grand-daughter) ___ ___ 
(daughter) ___
# CODE: FULL (confirmed with assistance of translator)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 10 Units Bedtime
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. GlipiZIDE 5 mg PO DAILY 
8. Januvia (sitaGLIPtin) 25 mg oral DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Doxazosin 1 mg PO BID 
12. HydrALAZINE 100 mg PO TID 
13. Sodium Bicarbonate 650 mg PO BID 
14. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. Doxazosin 1 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. HydrALAZINE 100 mg PO TID 
5. Glargine 10 Units Bedtime
6. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Polyethylene Glycol 17 g PO DAILY 
9. Pravastatin 20 mg PO QPM 
10. Sodium Bicarbonate 650 mg PO BID 
11. Aspirin 81 mg PO DAILY 
12. GlipiZIDE 5 mg PO DAILY 
13. Januvia (sitaGLIPtin) 25 mg oral DAILY 
14. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
15. Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
- hypertensive urgency

Secondary diagnoses:
- chronic diastolic heart failure
- coronary artery disease
- chronic kidney disease stage V
- type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure participating in your care here at ___. 
You were admitted with high blood pressure and chest pain. You 
were put on an IV blood pressure medication and then put back on 
your home medications with improvement in blood pressure.

It is very important that you take all of your medications as 
prescribed and have close follow up.

We wish you the best,
Your ___ Medicine Team
 
Followup Instructions:
___